US07820823B2
7-chloro-6-fluoro-1-(5-fluoro-pyridin-2-yl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid
A suspension of 0.5 g 7-chloro-6-fluoro-1-(5-fluoro-pyridin-2-yl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (1.37 mmol) in a mixture of 1.5 ml acetic acid and 1.5 ml 25% HCl was stirred at 90° C. over night. The reaction was monitored by HPLC. The suspension was poured into 50 ml water, the colorless crystals filtered and dried.

reactant | 7-chloro-6-fluoro-1-(5-fluoro-pyridin-2-yl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 1.37 mmol, 0.5 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)Cl)C1=NC=C(C=C1)F | C17H11ClF2N2O3
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 1.5 ml | Cl | ClH
product | 7-chloro-6-fluoro-1-(5-fluoro-pyridin-2-yl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid | ClC1=C(C=C2C(C(=CN(C2=C1)C1=NC=C(C=C1)F)C(=O)O)=O)F | C15H7ClF2N2O3
